Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
pancreatic fistula

 
Major Surgical or Invasive Procedure:
___ ercp with pancreatic stent placement

 
History of Present Illness:
___ yoM s/p OLT in ___ and s/p distal pancreatectomy with
splenectomy back in ___ of this year for ITP now comes in 
for
scheduled ERCP and pancreatic stent placement for persistent
pancreatic fistula.  Patient states that he has been feeling
generally well and denies fevers, chills, nausea or vomiting. 
Has been tolerating regualr diet, has had somewhat soft mildly
liquid like stools but this is normal for him. Recently 
completed
flagyl for CDiff while at rehab (___).  Also has had recent
increased edema of his legs and has been increased on his lasix
dose from 20mg BID to 60 mg BID.  

 
Past Medical History:
# ESLD ___ HCV cirrhosis, s/p OLT on ___  
- c/b biliary strictures w/ Roux en-Y hepaticogjejunostomy 
___  
# h/o polysubstance abuse  
# h/o L ureteral obstruction s/p stent placement ___  
- new stent placed ___ for L hydronephrosis  
# anal fissures/fistulae s/p repair ___  
# hypertension  
# SVT  
# esophagitis  
# cognitive disorder  
# adjustment disorder  
Portal vein thrombus
Splenomegaly
ITP
gram negative bacteremia ___
L hydronephrosis ___ splenomegaly with stent placement
___ ercp:pancreatic duct stent
PSH: (per initial H&P)  
# OLT ___ c/b biliary strictures w/ Roux en-Y 
hepaticojejunostomy
# incision hernia repair ___  
# s/p hemorrhoid repair  
# anal fistulectomy in ___ + ___, ___ placement 
___  
# appendectomy  
# cholecystectomy  
# splenectomy with distal pancreatectomy ___
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
NAD, sitting comfortably in bed.
  AAO x3, although he is a bit slow to answer quesitons, he is 
  appropriate. 
  RRR no MRG as can be auscultated on exam
  B/L ronchi at bases, otherwise CTA B/L 
  Soft, protuberant, NT, ND, scars all healed well. Drain in
place in L flank with greenish yellow drainage into bag.  No
erythema at site.
  + 3 edema in ___ B/L, pitting in nature, palpable pulses at 
DP's
with significant pressure thru edema.

 
Pertinent Results:
___ 05:45PM   WBC-8.4 RBC-3.46* HGB-9.9* HCT-31.4* MCV-91 
MCH-28.6 MCHC-31.5 RDW-22.0*
___ 05:45PM   ___ PTT-36.5* ___
___ 05:45PM   ALT(SGPT)-26 AST(SGOT)-59* ALK PHOS-352* 
AMYLASE-84 TOT BILI-1.0
___ 05:45PM   GLUCOSE-79 UREA N-38* CREAT-0.9 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-105 TOTAL CO2-27 ANION GAP-12

___ 05:45AM BLOOD WBC-8.2 RBC-3.08* Hgb-9.0* Hct-28.3* 
MCV-92 MCH-29.2 MCHC-31.8 RDW-21.8* Plt ___
___ 05:45AM BLOOD ___ PTT-44.8* ___
___ 05:45AM BLOOD Glucose-82 UreaN-45* Creat-1.2 Na-137 
K-4.9 Cl-105 HCO3-28 AnGap-9
___ 05:45AM BLOOD ALT-27 AST-63* AlkPhos-352* Amylase-97 
TotBili-0.9
 
Brief Hospital Course:
Upon admission IV heparin was started given that coumadin was on 
hold. Two bags of FFP was given for an INR of 1.8. An ERCP was 
performed on ___ noting papilla major diverticulum, previous 
choledochojejunostomy. Stones were noted at the lower third of 
the common bile duct. No extravasation was seen from the main 
duct of the pancreas. A ___ by 9cm ___ (Pancreatic Stent) 
pancreatic stent was placed successfully using a ___ pushing 
catheter to reduce transpapillary gradient. Ciprofloxacin 500mg 
po bid was started for 5 days per GI recommendation post ERCP. 
Post procedure, his vital signs remained stable. Amylase and 
lipase increased slightly. He tolerated a regular diet and he 
was ambulatory. 

Coumadin was resumed at his home dose of 2mg qd. INR was 1.9 on 
discharge. Trough Prograf levels were elevated on ___ (23.7) 
and ___ (22.7), down to 15.4 on day of discharge, will be sent 
home on 1 mg BID
 
Medications on Admission:
 Creon ___ 2caps tid, atenolol 50', rocaltrol 0.25', dilt
ER 180', epogen 10,000 qw, lasix 60', neurontin 100", humalog 
SS,
lamivudine 100', latanoprost .oo5', omeprazole 20", prednisone
3', risedronate 35 qw, zoloft 50', prograf 1.5", androgel 50/5',
trazoadone 100 qhs, ursodiol 300", coumadin 2', caltrate
600/400', MVI, senna, FeSO4

 
Discharge Medications:
1. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Amylase-Lipase-Protease 33,200-10,000- 37,500 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO QIDWMHS (4 times a day 
(with meals and at bedtime)).  
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO Q 12H (Every 12 Hours).  
9. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
10. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
12. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
13. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. Risedronate 35 mg Tablet Sig: One (1) Tablet PO 1X/WEEK 
(ONCE PER WEEK): started ___.  
16. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO DAILY (Daily).  
17. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
18. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed for insomnia, anxiety.  
19. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
20. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 7 doses.
Disp:*7 Tablet(s)* Refills:*0*
21. Methadone 10 mg Tablet Sig: Six (6) Tablet PO DAILY (Daily). 
 
22. Insulin Lispro 100 unit/mL Solution Sig: follow sliding 
scale  Subcutaneous ASDIR (AS DIRECTED).  
23. Outpatient Lab Work
Labs ___: cbc, chem 7, ast, alt, alk phos, t.bili, trough 
prograf and ___
fax to ___ attn: ___, RN Transplant 
Coordinator
24. Warfarin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
25. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO twice a day. 
 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
biliary stones, s/p ERCP with pancreas stent placement

 
Discharge Condition:
good

 
Discharge Instructions:
Please call Dr. ___ ___ if fever > 101, 
chills, nausea, vomiting, abdominal pain, jaundice, 
redness/drainage at Left upper abdomen drain site or if output 
from drain stops
Labs twice weekly for INR and transplant labs as directed by the 
transplant clinic
No heavy lifting
Change drain sponge daily, empty and record drain output
Continue with ___ clinic
 
Followup Instructions:
___